US04863925
2-[2,5-dimethyl-2,5-diaza-7,9-dithiabicyclo-(4.3.0)-nonane-8-ylidene]-5-(2-thienyl)-1,3-cyclo hexanedione. (compound No. 82)
To a suspension of 2.84 g (0.01 mole) of glyoxal-sodium bisulfite in 20 ml of water was added dropwise at room temperature 1.05 g (0.01 mole) of N,N'-dimethylethylenediamine and the mixture was stirred until it became a homogeneous solution. Then to this solution was added with ice-cooling the dithiolate solution prepared in the manner mentioned below; To a solution of 1.94 g (0.01 mole) of 5-thienyl-1,3-cyclohexanedione and 0.8 g (0.01 mole) of carbon disulfide in 10 ml of dimethylformamide was added with ice-cooling 1.4 g (0.025 mole) of powdered potassium hydroxide, and the mixture was stirred for one hour.

reactant | glyoxal-sodium bisulfite | 0.01 mole, 2.84 g | S([O-])(O)=O.[Na+].C(=O)C=O
reactant | N,N'-dimethylethylenediamine | 0.01 mole, 1.05 g | CNCCNC | C4H12N2
reactant | dithiolate | S1SC(C=C1)C(=O)[O-]
reactant | 5-thienyl-1,3-cyclohexanedione | 0.01 mole, 1.94 g | S1C(=CC=C1)C1CC(CC(C1)=O)=O | C10H10O2S
reactant | carbon disulfide | 0.01 mole, 0.8 g | C(=S)=S | CS2
reactant | potassium hydroxide | 0.025 mole, 1.4 g | [OH-].[K+]
solvent | water | 20 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-[2,5-dimethyl-2,5-diaza-7,9-dithiabicyclo-(4.3.0)-nonane-8-ylidene]-5-(2-thienyl)-1,3-cyclo hexanedione | CN1C2SC(SC2N(CC1)C)=C1C(CC(CC1=O)C=1SC=CC1)=O | C17H20N2O2S3
